US06900244B2
Step 1 2-(4-Aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
A neat solution of aniline (4.3 mL, 47 mmol) and p-toluenesulfonic acid monohydrate (85 mg, 0.45 mmol) in a round bottom flask equipped with a reflux condenser was heated to 90° C. and hexafluoroacetone trihydrate (7 mL, 50 mmol) added over 15 minutes via syringe. Following addition, the temperature was increased to 130° C. and the resulting solution stirred over 18 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The organics were washed with saturated NaHCO3 solution then brine. The solution was dried over MgSO4 and the solvent removed in vacuo. The residue was purified by flash chromatography (4:1 hexanes/EtOAc) to give the title product as a white crystalline solid (5.5 g, 45%). MS (ES+) m/z 260 (MH+).

reactant | aniline | 47 mmol, 4.3 mL | NC1=CC=CC=C1 | C6H7N
reactant | hexafluoroacetone trihydrate | 50 mmol, 7 mL | O.O.O.FC(C(=O)C(F)(F)F)(F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid monohydrate | 0.45 mmol, 85 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(4-Aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 5.5 g, 45% | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
